US07087601B2
To 7 mL trimethylsilyl polyphosphate was added 3-aminopyridin-4-ol (330 mg, 3.00 mmol) and 3-methoxy-4-pyridin-2-ylbenzoic acid (460 mg, 2.00 mmol). The mixture was heated at 200° C. for 2 h, quenched over ice, and made basic (pH 14) with 1N NaOH. The aqueous phase was extracted with MTBE (3×200 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, concentrated in vacuo, and purified by column chromatography (50–100% EtOAc/hexanes followed by 10% MeOH/CHCl3) to give 2-(3-Methoxy-4-pyridin-2-ylphenyl)[1,3]oxazolo[4,5-c]pyridine as a yellow solid. 1H NMR (DMSO-d6, 300 MHz) δ 9.16 (s, 1H), 8.71 (d, 1H), 8.62 (d, 1H), 8.03–7.84 (m, 6H), 7.39 (t, 1H), 4.00 (s, 3H); MS (ESI) 304 (M+H)+.

reactant | trimethylsilyl polyphosphate | 7 mL | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | 3-aminopyridin-4-ol | 3.00 mmol, 330 mg | NC=1C=NC=CC1O | C5H6N2O
reactant | 3-methoxy-4-pyridin-2-ylbenzoic acid | 2.00 mmol, 460 mg | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
product | 2-(3-Methoxy-4-pyridin-2-ylphenyl)[1,3]oxazolo[4,5-c]pyridine | COC=1C=C(C=CC1C1=NC=CC=C1)C=1OC2=C(C=NC=C2)N1 | C18H13N3O2
